US04911966
By using the same autoclave as used in Preparation Example 1, 300 g of p-tert-butylstyrene polymer (Mw=20.4×104, Mn=11.2×104, Mw/Mn=1.82) prepared by suspension polymerization in water, was charged instead of 300 g of polystyrene in Preparation Example 1. The hydrogenation reaction and post-treatment were conducted in the same manner as in Preparation Example 1 except that the hydrogenation conditions were changed as identified in Table 1, whereby polyvinyl p-tert-butylcyclohexane was obtained.

reactant | p-tert-butylstyrene | 300 g | C(C)(C)(C)C1=CC=C(C=C)C=C1 | C12H16
solvent | water | O | H2O
product | p-tert-butylcyclohexane | C(C)(C)(C)C1CCCCC1 | C10H20
